US06348474B1
7-Carboxy-1-(2,4-dichlorobenzyl)-2-methyl-4(1H)-quinazolinone
7-Carbamoyl-1-(2,4-dichlorobenzyl)-2-methyl-4(1H)-quinazolinone (1.40 g) in a mixture of concentrated sulfuric acid (6 ml) and water (6 ml) was heated at 100° C. for 1 hr. After cooling, the precipitated solid was collected by filtration, washed with water, dried and concentrated to give the object compound (1.46 g) as white crystals.

reactant | 7-Carbamoyl-1-(2,4-dichlorobenzyl)-2-methyl-4(1H)-quinazolinone | 1.40 g | C(N)(=O)C1=CC=C2C(N=C(N(C2=C1)CC1=C(C=C(C=C1)Cl)Cl)C)=O | C17H13Cl2N3O2
reactant | sulfuric acid | 6 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 6 ml | O | H2O
product | 7-Carboxy-1-(2,4-dichlorobenzyl)-2-methyl-4(1H)-quinazolinone | 1.46 g | C(=O)(O)C1=CC=C2C(N=C(N(C2=C1)CC1=C(C=C(C=C1)Cl)Cl)C)=O | C17H12Cl2N2O3
